US04510141
In an entirely analogous manner, using 117.00 g (0.830 mol) of 1-fluoro-2-nitrobenzene and 222.00 g (1.826 mol) of 2,3-dimethylaniline in 585 ml of dimethyl sulphoxide as starting materials there is obtained N-(2,3-dimethylphenyl)-2-nitroaniline having a melting point of 118°-120° after recrystallisation from methylene chloride/hexane.

reactant | 1-fluoro-2-nitrobenzene | 0.830 mol, 117.00 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2,3-dimethylaniline | 1.826 mol, 222.00 g | CC1=C(N)C=CC=C1C | C8H11N
solvent | dimethyl sulphoxide | 585 ml | CS(=O)C | C2H6OS
product | N-(2,3-dimethylphenyl)-2-nitroaniline | CC1=C(C=CC=C1C)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H14N2O2
